US08008322B2
2-Ethoxy-5-trifluoromethylphenylamine is reacted with 2-(4-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane according to the preparation of 1-(2-methoxy-4-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea described in Example 5. After purification, a beige-coloured powder of 1-(2-ethoxy-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea is obtained, the characteristics of which are as follows:

reactant | 2-Ethoxy-5-trifluoromethylphenylamine | C(C)OC1=C(C=C(C=C1)C(F)(F)F)N | C9H10F3NO
reactant | 2-(4-isocyanatophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | N(=C=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H16BNO3
reactant | 1-(2-methoxy-4-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | COC1=C(C=CC(=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H24BF3N2O4
product | 1-(2-ethoxy-5-trifluoromethylphenyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | C(C)OC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H26BF3N2O4
